US08053440B2
To a solution of 2-amino-4,6-dimethoxy-benzamide (150 mg, 0.76 mmol) and 4-(4-methyl piperazin-1-ylmethyl)benzaldehyde (166 mg, 0.76 mmol) in N,N-dimethyl acetamide (10 mL), NaHSO3 (149 mg, 0.84 mmol) and p-TSA (319 mg, 1.68 mmol) were added and the reaction mixture was heated at 150° C. for 3 h. The mixture was cooled to room temperature and water was added and neutralized by addition of NaHCO3. The solvent was removed under reduced pressure to give the crude product. The crude was purified by column chromatography (silica gel 230-400 mesh; 4% NH3 in methanol/CH2Cl2 as eluent) to give the product 5,7-dimethoxy-2-(4-((4-methylpiperazin-1-yl)methyl)phenyl)quinazolin-4(3H)-one as a free base, which was converted to the hydrochloride salt (115 mg, 35%). Selected data: MS (ES) m/z: 395.2; MP 275-277° C. (hydrochloride).

reactant | 2-amino-4,6-dimethoxy-benzamide | 0.76 mmol, 150 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(4-methyl piperazin-1-ylmethyl)benzaldehyde | 0.76 mmol, 166 mg | CN1CCN(CC1)CC1=CC=C(C=O)C=C1 | C13H18N2O
reactant | NaHSO3 | 0.84 mmol, 149 mg | OS(=O)[O-].[Na+]
reactant | p-TSA | 1.68 mmol, 319 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 5,7-dimethoxy-2-(4-((4-methylpiperazin-1-yl)methyl)phenyl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C22H26N4O3
